US09376443B2
2-(4-Hydroxytetrahydropyran-4-yl)pyridine
To a stirred, cooled solution of 2-bromopyridine (5 g, 31.65 mmol) in THF (75 mL) at −78° C. was added n-butyl lithium (2.5 M in hexanes, 12.66 mL, 31.65 mmol) dropwise and the solution stirred at −78° C. for 10 minutes. After this time, tetrahydro-4H-pyran-4-one (3.49 g, 34.81 mmol) was added, the reaction warmed to ambient temperature and stirred overnight. The reaction was then quenched with saturated aqueous ammonium chloride solution and the THF removed in vacuo. The resultant aqueous phase was twice extracted with ethyl acetate and the combined organic phases dried (magnesium sulfate) and filtered. After concentration in vacuo, purification by column chromatography (SiO2, eluting with 2:1 hexanes:ethyl acetate) gave a residue which was triturated from hexane to yield the title compound (3.47 g, 61%) as a white solid; NMR δH (400 MHz, CDCl3) 8.49 (1H, m), 7.81 (1H, td, J 7.8 Hz, 1.8 Hz), 7.68 (1H, m), 7.25 (1H, ddd, J 7.5 Hz, 4.9 Hz, 1.1 Hz), 3.85 (4H, m), 3.30 (1H, m), 2.30 (2H, td, J 13.3 Hz, 5.3 Hz), 1.54 (1H, dd, J 13.8 Hz, 1.9 Hz); LC-MS Retention time 0.51 min, (M+H)+ 180.

reactant | 2-bromopyridine | 31.65 mmol, 5 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyl lithium | 31.65 mmol, 2.5 M, 12.66 mL | C(CCC)[Li]
reactant | tetrahydro-4H-pyran-4-one | 34.81 mmol, 3.49 g | O1CCC(CC1)=O | C5H8O2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-(4-Hydroxytetrahydropyran-4-yl)pyridine | 3.47 g, 61% | OC1(CCOCC1)C1=NC=CC=C1 | C10H13NO2
